US04657921
1-Fluoro-1-(1H-1,2,4-triazol-1-yl)-2-(2,4-dichlorophenyl)-2-(4-fluorophenyl)ethane
276 g of 1-(2,4-dichlorophenyl)-2-fluoro-2-(1H-1,2,4-triazol-1-yl)ethanol are introduced, with vigorous stirring, into a mixture, cooled to 0° C., of 1 liter of 98% H2SO4 and 300 ml of fluorobenzene in such a manner that the internal temperature does not exceed +10° C. The reaction mixture is subsequently stirred at room temperature for a further 6 hours; it is then poured onto about 1.5 kg of ice, and extracted three times with 300 ml of methylene chloride each time. The combined extracts are washed neutral with water, dried over sodium sulfate, filtered, and excess solvent and fluorobenzene are distilled off. The resulting light-brown resin is subjected to short-path distillation at 0.05 mbar and 160° C. (bath temperature). There are thus obtained 300 g (yield about 85%) of a light-coloured, glass-like substance. This glass can be caused to crystallise by means of cyclohexane/diethyl ether; melting range 96°-104° C. The analytical data show that the product obtained is a diastereoisomeric mixture of the compound No. 1.1.

reactant | 1-(2,4-dichlorophenyl)-2-fluoro-2-(1H-1,2,4-triazol-1-yl)ethanol | 276 g | ClC1=C(C=CC(=C1)Cl)C(C(N1N=CN=C1)F)O | C10H8Cl2FN3O
reactant | H2SO4 | 1 liter | OS(=O)(=O)O | H2O4S
reactant | fluorobenzene | 300 ml | FC1=CC=CC=C1 | C6H5F
product | 1-Fluoro-1-(1H-1,2,4-triazol-1-yl)-2-(2,4-dichlorophenyl)-2-(4-fluorophenyl)ethane | yield about 85% | FC(C(C1=CC=C(C=C1)F)C1=C(C=C(C=C1)Cl)Cl)N1N=CN=C1 | C16H11Cl2F2N3
